US06576247B1
Process for the Synthesis of Eugenyl Glucoside (β-form)
8.0 g of glucose pentaacetate were dissolved in 40 ml of absolute toluene, to which 3.28 g of eugenol and 2.0 g of molecular sieves 4A were then added. The mixture was stirred for about one hour. Next, 1 ml of a boron trifluoridediethyl ether complex was added to the mixture. Stirring was further continued for a day and night. After the end of the reaction, molecular sieves 4A was filtered off. The filtrate was washed twice with each 50 ml of a 0.5N aqueous solution of potassium hydroxide to remove unreacted eugenol. After washed further with water and dried with sodium sulfate, it was dried under reduced pressure to obtain 2.4 g of the intended product. According to 13C-NMR of the crystals obtained, a signal of C-1 position was detected at 102.9 ppm. It was, therefore, confirmed that the product had a β-bonding.

reactant | glucose pentaacetate | 8.0 g | C(C)(=O)O[C@@H](C=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](OC(C)=O)COC(C)=O | C16H22O11
reactant | eugenol | 3.28 g | C=1(C(O)=CC=C(CC=C)C1)OC | C10H12O2
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | Eugenyl Glucoside | 2.4 g | COC1=C(C=CC(=C1)CC=C)O[C@H]2[C@@H]([C@H]([C@@H]([C@H](O2)CO)O)O)O | C16H22O7
